US04188395
2-Phthalimidomethyl-6-methyl-4-(3'-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
28 g of 3-chlorobenzaldehyde, 56 g of phthalimidoacetoacetic acid ethyl ester and 25.8 g of β-aminocrotonic acid ethyl ester in 250 ccs of ethanol are heated to the boil under reflux for 3×24 hours, the mixture is allowed to cool, whilst stirring, and, after filtering, light yellow crystals of melting point 135°-136° C. are obtained, yield: 55%.

reactant | 3-chlorobenzaldehyde | 28 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | phthalimidoacetoacetic acid ethyl ester | 56 g | C(C)OC(CC(=O)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H13NO5
reactant | β-aminocrotonic acid ethyl ester | 25.8 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Phthalimidomethyl-6-methyl-4-(3'-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield: 55% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)OCC)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C27H25ClN2O6
